US08389511B2
Methyl 5-amino-4-hydroxy-2-(trifluoromethyl)benzoate
Methyl 4-hydroxy-5-nitro-2-(trifluoromethyl)benzoate (58.0 g) was dissolved in methanol (600 ml), and thereto was added 10% palladium carbon (50% wet.: 11.60 g). The mixture was vigorously stirred under hydrogen atmosphere at 25° C. for 8 hours. After the reaction was complete, the mixture was filtered on celite, washed with methanol, and the filtrate was concentrated under reduced pressure to give the title compound (53.0 g).

reactant | Methyl 4-hydroxy-5-nitro-2-(trifluoromethyl)benzoate | 58.0 g | OC1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])C(F)(F)F | C9H6F3NO5
solvent | methanol | 600 ml | CO | CH4O
catalyst | palladium carbon | 11.60 g | [C].[Pd]
product | Methyl 5-amino-4-hydroxy-2-(trifluoromethyl)benzoate | 53.0 g | NC=1C(=CC(=C(C(=O)OC)C1)C(F)(F)F)O | C9H8F3NO3
